US09119868B2
Zinc chloride (28.3 g, 0.207 mol) was stirred in anhydrous ethanol (45 mL) then heated to 95° C. (reflux) under nitrogen atmosphere using oven dried glassware. Ethyl 4-chlorobenzoylacetate (44 g, 0.194 mol) was added as a single portion followed by dropwise addition of a solution of benzoquinone (22.6 g, 0.21 mol) in anhydrous MTBE (500 mL) over 2 hours. This was performed with a simultaneous distillation of MTBE from the reaction mixture such that the reaction volume remained approximately constant. A bath temperature of 145-155° C. and an internal temperature of 75-95° C. maintained throughout most of the addition. Halfway through the addition more anhydrous ethanol (45 mL) was added because the reaction mixture became thick and a loss of some of the original volume of ethanol through the distillation was suspected. After addition was complete, heating continued for 30 minutes. The reaction mixture was cooled to room temperature and partitioned between water (100 mL) and EtOAc (250 mL). The insoluble solids were removed by filtration of the biphasic solution and the organic layer was then separated, washed with more water, dried and evaporated under vacuum. The residual brown solid was slurried in warm dichloromethane and the mixture cooled to room temperature and cooled further by refrigeration overnight. The tan solid was filtered from the dark brown solution and washed with a small volume of DCM and dried under vacuum to give ethyl 2-(4-chlorophenyl)-5-hydroxybenzofuran-3-carboxylate (27 g, 44%).

reactant | Ethyl 4-chlorobenzoylacetate | 0.194 mol, 44 g | ClC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H11ClO3
reactant | benzoquinone | 0.21 mol, 22.6 g | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | ethanol | 45 mL | C(C)O | C2H6O
solvent | MTBE | 500 mL | CC(C)(C)OC | C5H12O
catalyst | Zinc chloride | 0.207 mol, 28.3 g | [Cl-].[Zn+2].[Cl-]
product | ethyl 2-(4-chlorophenyl)-5-hydroxybenzofuran-3-carboxylate | 27 g, 44% | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OCC)C=C(C=C2)O | C17H13ClO4
